US09238650B2
Step C: Preparation of 2-(3,5-dichlorophenyl)propanedioyl Dichloride
A 4-necked 500-mL flask equipped with overhead stirrer, condenser, thermometer, and addition funnel was charged with 2-(3,5-dichlorophenyl)propanedioic acid (21.8 g, 87.6 mmol), anhydrous dichloromethane (300 mL), and N,N-dimethylformamide (0.1 mL). To this stirred solution was added oxalyl chloride (19 mL, 217 mmol) over 10 min at room temperature. The mixture was stirred at room temperature for 1 hr, then refluxed for 2.5 h under nitrogen. The resulting yellow solution was concentrated under reduced pressure (20 mmHg) at a temperature of 25° C. to yield the crude product as an orange oil. The resulting material was used directly in the next step.

reactant | 2-(3,5-dichlorophenyl)propanedioic acid | 87.6 mmol, 21.8 g | ClC=1C=C(C=C(C1)Cl)C(C(=O)O)C(=O)O | C9H6Cl2O4
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 217 mmol, 19 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | 2-(3,5-dichlorophenyl)propanedioyl Dichloride | ClC=1C=C(C=C(C1)Cl)C(C(=O)Cl)C(=O)Cl | C9H4Cl4O2
